US09029545B2
Ethyl 4-amino-3,6-dimethylthieno[2,3-b]pyridine-5-carboxylate
A mixture of 2-amino-4-methyl-3-thiophenecarbonitrile (300 mg, 2.171 mmol), ethyl acetoacetate (0.275 mL, 2.171 mmol) and SnCl4 (0.510 mL, 434 mmol) in toluene (15 mL) was stirred at RT for 30 min and then reflux for 3.5 h. After cooling to RT, the mixture was quenched with 6M NaOH (20 mL) and extracted with ethyl acetate (3×20 mL). The combined organics were washed with brine (30 mL), dried and concentrated. Purification by chromatography on silica gel, eluting with a gradient of 0-50% ethyl acetate in cyclohexane, afforded the title compound (210 mg). LCMS (A) m/z: 251 [M+1]+, Rt 0.77 min (acidic).

reactant | 2-amino-4-methyl-3-thiophenecarbonitrile | 2.171 mmol, 300 mg | NC=1SC=C(C1C#N)C | C6H6N2S
reactant | ethyl acetoacetate | 2.171 mmol, 0.275 mL | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | SnCl4 | 434 mmol, 0.510 mL | Cl[Sn](Cl)(Cl)Cl
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 4-amino-3,6-dimethylthieno[2,3-b]pyridine-5-carboxylate | 210 mg | NC1=C2C(=NC(=C1C(=O)OCC)C)SC=C2C | C12H14N2O2S
